US08106070B2
Dess-Martin periodinane (269 mg, 0.63 m mol) was added to an ambient temperature solution of benzyl {1-[4-(5-fluoropyridin-2-yl)benzyl]-2-[(2-hydroxy-4,4-dimethylhexyl)amino]-1-methyl-2-oxoethyl}carbamate (170 mg, 0.32 mmol) in methylene chloride (5 mL). After stirring at ambient temperature for 2 hr the reaction mixture was quenched with saturated aqueous sodium bicarbonate/saturated aqueous sodium thiosulfate (1:1) and extracted with ethyl acetate. The combined organic extracts were washed with brine, dried (sodium sulfate) and concentrated in vacuo to afford benzyl {2-[(4,4-dimethyl-2-oxohexyl)amino]-1-[4-(5-fluoropyridin-2-yl)benzyl]-1-methyl-2-oxoethyl}carbamate which was used in the subsequent step without further purification.

reactant | Dess-Martin periodinane | 269 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | benzyl {1-[4-(5-fluoropyridin-2-yl)benzyl]-2-[(2-hydroxy-4,4-dimethylhexyl)amino]-1-methyl-2-oxoethyl}carbamate | 0.32 mmol, 170 mg | FC=1C=CC(=NC1)C1=CC=C(CC(C(=O)NCC(CC(CC)(C)C)O)(C)NC(OCC2=CC=CC=C2)=O)C=C1 | C31H38FN3O4
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | benzyl {2-[(4,4-dimethyl-2-oxohexyl)amino]-1-[4-(5-fluoropyridin-2-yl)benzyl]-1-methyl-2-oxoethyl}carbamate | CC(CC(CNC(C(C)(CC1=CC=C(C=C1)C1=NC=C(C=C1)F)NC(OCC1=CC=CC=C1)=O)=O)=O)(CC)C | C31H36FN3O4
